US07208526B2
Sodium hydride (60% dispersion in mineral oil) (36 mg, 0.9 mmol) was added to a solution of (E)-2-(2-chloro-phenyl)-ethenesulfonic acid amide (65 mg, 0.3 mmol) in 1,4-dioxane (1.5 mL) and the reaction mixture was shaken for 30 minutes. Crude 4-bromo-2-chloro-benzoyl chloride (114 mg, 0.45 mmol) in dioxane (0.5 mL) was added and the reaction mixture was shaken at room temperature for 18 hours. Water (0.1 mL) was added to the reaction mixture and the whole was concentrated in vacuo. The resultant residue was purified by preparative HPLC under neutral conditions to give (E)-2-(2-chloro-phenyl)-ethenesulfonic acid 4-bromo-2-chloro-benzoylamide; sodium salt (38 mg, 29% yield).

reactant | Sodium hydride | 0.9 mmol, 36 mg | [H-].[Na+]
reactant | (E)-2-(2-chloro-phenyl)-ethenesulfonic acid amide | 0.3 mmol, 65 mg | ClC1=C(C=CC=C1)/C=C/S(=O)(=O)N | C8H8ClNO2S
reactant | 4-bromo-2-chloro-benzoyl chloride | 0.45 mmol, 114 mg | BrC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
reactant | Water | 0.1 mL | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (E)-2-(2-chloro-phenyl)-ethenesulfonic acid 4-bromo-2-chloro-benzoylamide | BrC1=CC(=C(C(=O)NS(=O)(=O)\C=C\C2=C(C=CC=C2)Cl)C=C1)Cl | C15H10BrCl2NO3S
